US07544697B2
Under a nitrogen atmosphere, sodium tert-butoxide (54.1 g, 0.564 mol) and ethanol (187 mL) were combined at 0° C. The mixture was stirred at ambient temperature for 30 minutes. A mixture of mesityl oxide (30 mL, 0.26 mol) and diethyl oxalate (35.6 mL, 0.26 mol) in ethanol (40 mL) was added over a period of 1 minute. The reaction mixture was stirred for 2.5 hours at ambient temperature and then cooled to 0° C. Acetic acid (131 mL) and methyl hydrazine (15.3 mL, 0.288 mol) were added. The reaction was allowed to warm to ambient temperature with stirring overnight and then concentrated under reduced pressure. The residue was diluted with chloroform (500 mL) and water (1 L) and the mixture was adjusted to pH 11 with the addition of 50% sodium hydroxide. The aqueous layer was extracted with chloroform (3×250 mL); the combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide ethyl 1-methyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carboxylate as a black oil that was used without purification.

reactant | sodium tert-butoxide | 0.564 mol, 54.1 g | CC(C)([O-])C.[Na+]
reactant | mesityl oxide | 0.26 mol, 30 mL | O=C(C)C=C(C)C | C6H10O
reactant | diethyl oxalate | 0.26 mol, 35.6 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | methyl hydrazine | 0.288 mol, 15.3 mL | CNN | CH6N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 187 mL | C(C)O | C2H6O
solvent | Acetic acid | 131 mL | C(C)(=O)O | C2H4O2
product | ethyl 1-methyl-5-(2-methylprop-1-enyl)-1H-pyrazole-3-carboxylate | CN1N=C(C=C1C=C(C)C)C(=O)OCC | C11H16N2O2
